US04137313
2,5-Dihydro-2,5-dimethyl-N-(4-fluoro-phenyl)-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide was prepared analogous to Example 9 from n-butyl 2,5-dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxylate-1,1-dioxide and 4-fluoro-aniline in xylene; M.p.: 271°-272° C. (decomp.); Yield: 68% of theory;

reactant | n-butyl 2,5-dihydro-2,5-dimethyl-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxylate-1,1-dioxide | CN1S(C2=C(N(C=3C=CC=CC23)C)C(=C1C(=O)OCCCC)O)(=O)=O | C17H20N2O5S
reactant | 4-fluoro-aniline | FC1=CC=C(N)C=C1 | C6H6FN
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2,5-Dihydro-2,5-dimethyl-N-(4-fluoro-phenyl)-4-hydroxy-1,2-thiazino[5,6-b]indole-3-carboxamide-1,1-dioxide | Yield: 68% | CN1S(C2=C(N(C=3C=CC=CC23)C)C(=C1C(=O)NC1=CC=C(C=C1)F)O)(=O)=O | C19H16FN3O4S
